US08466176B2
To a solution of 6-methylpyridine-2-carbaldehyde (3.7 g, 30.54 mmol, 1 eq.) in 10 ml of ethylene glycol was added TsOH.H2O (6.67 g, 32.07 mmol, 1.05 eq.). The reaction was heated in microwave at 200° C. for 180 s (fixed hold absorb high). The mixture was added to a stirred solution of 10 g of K2CO3 in 200 ml of water, and was extracted with DCM (3×150 ml). The combined organics were washed with water evaporated on RFE (water bath 25° C.) to give 2-(1,3-dioxolan-2-yl)-6-methylpyridine (3.7 g, 51% yield) as pale brown liquid.

reactant | 6-methylpyridine-2-carbaldehyde | 30.54 mmol, 3.7 g, 1 eq. | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | TsOH.H2O | 32.07 mmol, 6.67 g, 1.05 eq. | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 2-(1,3-dioxolan-2-yl)-6-methylpyridine | 3.7 g, 51% yield | O1C(OCC1)C1=NC(=CC=C1)C | C9H11NO2
